* Library of on_zener "zener diodes",
*
****************************************************************************
*
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
**************************************************************************** 
* $Author:   RAGHUBEER  $
* $Date:   Sept 25/2007 $
***************************************
*$
.SUBCKT mmsz5221bt1 2 1  
*anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=2.1e-10 TT=2e-09
R 1 2 MDR 2e+07	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 3.03263
I1 4 3 3.6
RXX 4 3 400
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.500 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.650 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 2410.88
.MODEL MDRBRK_SIg RES TC1=-0.00036934
.ENDS mmsz5221bt1
*******************************************
*$
.SUBCKT mmsz5225bt1 2 1    
*  anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.77828e-12 N=1.34509 XTI=1 RS=2.288
+ CJO=3e-10 TT=1e-08
R 1 2 MDR 50000	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 8.36295
I1 4 3 0.12
RXX 4 3 1100
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.80 XTI=0 EG=0.1   
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=1.1000 XTI=0 EG=0.1   
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 3000.631      ;980.631
.MODEL MDRBRK_SIg RES TC1=0.00191203
.ENDS mmsz5225bt1
********************************************
*$
.SUBCKT mmsz5226bt1 2 1
*node: 2      1
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.77828e-12 N=1.34509 XTI=1 RS=2.288
+ CJO=3e-10 TT=1e-08
R 1 2 MDR 285714	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 8.36295
I1 4 3 0.12
RXX 4 3 1100
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.37556 XTI=0 EG=0.1    
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.39000 XTI=0 EG=0.1   
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg  3270.63
.MODEL MDRBRK_SIg RES TC1=0.00161053
.ENDS mmsz5226bt1
*********************************************
*$
.SUBCKT mmsz5228bt1 2 1
*    anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=2.1e-10 TT=2e-09
R 1 2 MDR 2e+07	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 3.03263
I1 4 3 3.6
RXX 4 3 400
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.740655 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=3.84206 XTI=0 EG=0.1      
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 2440.88
.MODEL MDRBRK_SIg RES TC1=-0.00036934
.ENDS 
**********************************************
*$
.SUBCKT mmsz5231bt1 2 1  
*    cathode=1 anode=2
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.78415e-09 N=2.00311 XTI=1 RS=0.409
+ CJO=1.7e-10 TT=1e-08
R 1 2 MDR 3.33333e+07	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 1.63212
I1 4 3 0.24
RXX 4 3 100
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.114452 XTI=0 EG=0.1
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.274444 XTI=0 EG=0.1
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 4980.21
.MODEL MDRBRK_SIg RES TC1=0.000235532
.ENDS 
**********************************************
*$
.SUBCKT mmsz5233bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=1.4e-10 TT=2e-09
R 1 2 MDR 2e+07	
.MODEL MDR RES TC1=0 TC2=0
I1 4 2 3.6
RXX 4 2 150
D_REV 2 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.939045 XTI=0 EG=0.1   
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=1.57119 XTI=0 EG=0.1    
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001 
RBRK_SIg 6 0 MDRBRK_SIg 5850.77         
.MODEL MDRBRK_SIg RES TC1=-0.000304237
.ENDS 
********************************************
*$
.SUBCKT mmsz5234bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=1.4e-10 TT=2e-09
R 1 2 MDR 2e+07	
.MODEL MDR RES TC1=0 TC2=0
I1 4 2 3.6
RXX 4 2 150
D_REV 2 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.990 XTI=0 EG=0.1    
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=1.6 XTI=0 EG=0.1    
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001 
RBRK_SIg 6 0 MDRBRK_SIg 6110         
.MODEL MDRBRK_SIg RES TC1=-0.000304237
.ENDS
*******************************************
*$
.SUBCKT mmsz5235bt1 2 1
D_fwd 2 1 FWD_DIO                                              
.MODEL FWD_DIO D IS=1.78415e-09 N=2.00311 XTI=1 RS=0.409
+ CJO=7e-11 TT=1e-08
R 1 2 MDR 1.42857e+09 	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 1.44088                                        
I1 4 3 0.24
RXX 4 3 75
D_REV 3 4 MD_REV                                              
.MODEL MD_REV D IS=2.5e-12 N=0.0183000 XTI=0 EG=0.1      
D_REV2 5 4 MD_REV2                                              
.MODEL MD_REV2 D IS=2.5e-12 N=0.044000 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 6790                                  
.MODEL MDRBRK_SIg RES TC1=0.000513232
.ENDS 
******************************************
*$
.SUBCKT mmsz5236bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=1.05e-10 TT=2e-09
R 1 2 MDR 8.57143e+07	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 3.41647
I1 4 3 2.04
RXX 4 3 200
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.0976907 XTI=0 EG=0.1
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.450855 XTI=0 EG=0.1
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 7235.3
.MODEL MDRBRK_SIg RES TC1=0.000549389
.ENDS 
******************************************
*$
.SUBCKT mmsz5239bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=8.8e-11 TT=2e-09
R 1 2 MDR 2.33333e+08	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 2.40344
I1 4 3 1.68
RXX 4 3 150
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.162348 XTI=0 EG=0.1  
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.410000 XTI=0 EG=0.1  
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 8999.91
.MODEL MDRBRK_SIg RES TC1=0.000616677
.ENDS 
********************************************
*$
.SUBCKT mmsz5240bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=8.8e-11 TT=2e-09
R 1 2 MDR 2.33333e+08	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 2.40344
I1 4 3 1.68
RXX 4 3 150
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.162348 XTI=0 EG=0.1  
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.410000 XTI=0 EG=0.1 
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 9900.91
.MODEL MDRBRK_SIg RES TC1=0.000616677
.ENDS
*********************************************
*$
.SUBCKT mmsz5243bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=6.57933e-10 N=1.84949 XTI=1 RS=1.02
+ CJO=1e-10 TT=2e-09
R 1 2 MDR 4.125e+08	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 2.13371
I1 4 3 1.2
RXX 4 3 150
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.0658454 XTI=0 EG=0.1
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.318088 XTI=0 EG=0.1
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 12844.2
.MODEL MDRBRK_SIg RES TC1=0.000663956
.ENDS
********************************************
*$
.SUBCKT mmsz5250bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 3e+10	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 5.87247
I1 4 3 0.42
RXX 4 3 550
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.502281 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.980909 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 19690                                  
.MODEL MDRBRK_SIg RES TC1=0.000558144
.ENDS 
********************************************
*$
.SUBCKT mmsz5254bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 3e+10	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 5.87247
I1 4 3 0.42
RXX 4 3 550
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.202281 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.910909 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 26606                                 
.MODEL MDRBRK_SIg RES TC1=0.000558144
.ENDS 
******************************************
*$
.SUBCKT mmsz5256bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 3e+10	
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 5.87247
I1 4 3 0.42
RXX 4 3 550
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.202281 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=0.900909 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 29800                                 
.MODEL MDRBRK_SIg RES TC1=0.000558144
.ENDS 
*********************************************
*$
.SUBCKT mmsz5260bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 2.2e+09
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 49.0569
I1 4 3 0.384
RXX 4 3 3500
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.801316 XTI=0 EG=0.1     
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=2.49847 XTI=0 EG=0.1     
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 42000.9
.MODEL MDRBRK_SIg RES TC1=0.000564777
.ENDS mmsz5260bt1
*************************************************
*$
.SUBCKT mmsz5262bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 2.6e+09
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 55.4782
I1 4 3 0.246
RXX 4 3 4500
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.728084 XTI=0 EG=0.1
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=3.33377 XTI=0 EG=0.1
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 49552.6
.MODEL MDRBRK_SIg RES TC1=0.000566065
.ENDS mmsz5262bt1
*$
.SUBCKT mmsz5272bt1 2 1
*     anode cathode
D_fwd 2 1 FWD_DIO
.MODEL FWD_DIO D IS=1.3268e-09 N=1.91675 XTI=1 RS=1.103
+ CJO=4e-11 TT=1e-08
R 1 2 MDR 2.6e+09
.MODEL MDR RES TC1=0 TC2=0
R_brkdn 2 3 55.4782
I1 4 3 0.246
RXX 4 3 4500
D_REV 3 4 MD_REV
.MODEL MD_REV D IS=2.5e-12 N=0.928084 XTI=0 EG=0.1
D_REV2 5 4 MD_REV2
.MODEL MD_REV2 D IS=2.5e-12 N=7.33377 XTI=0 EG=0.1
Ediv1 1 5 6 0 1
IBrkovr 0 6 0.001
RBRK_SIg 6 0 MDRBRK_SIg 104500.6
.MODEL MDRBRK_SIg RES TC1=0.000566065
.ENDS mmsz5272bt1
*************************************************
*$
