* $Revision:   9.2.3WU1  $
* $Author:   PSPICE_PV   $
* $Date:   22 Apr 2002 08:53:32  $
************************************************************
* $Author:   Sripada $
* $Date:   06 Feb 2006 04:03 PM  $
* $ Modification History: Added discrete RLC inline with AWB for 15.7
*$
****************************************************************
.SUBCKT awbvalve_reg_cell 7 5 
+ PARAMS:
+ VOC = 2.06
+ AH = 500
+ SOC=1
xinstlabat 7 5 model8_valuereg params: voc = {VOC}
+ ah ={AH}
+ soc={SOC}
.ends awbvalve_reg_cell 
*$
.SUBCKT awbflooded_cell 7 5 
+ PARAMS:
+ VOC = 2.06
+ AH = 500
+ SOC=1
xinstlabat 7 5 model8_flooded params: voc = {VOC}
+ ah ={AH}
+ soc={SOC}
.ends awbflooded_cell 
*$
*b Device model created by analog_uprev for resistor on Wed Jan 11 16:44:45 IST 2006
.subckt awbresistor   1 2
+ params:
+ RES=1k
+ ESL=100m
+ RESL=100
+ CS=100u
+ RTMPL=100m
+ RTMPQ=100u
xinstresistor   1 2 model400     params:  res={RES}
+  esl={ESL}
+  resl={RESL}
+  cs={CS}
+  rtmpl={RTMPL}
+  rtmpq={RTMPQ}
.ends  awbresistor
*$
Device model created by analog_uprev for capacitor on Wed Jan 11 16:44:45 IST 2006
.subckt awbcapacitor   1 2
+ params:
+ CAP=1u
+ C1=10n
+ C2=2
+ C3=111
+ ESL=100u
+ RESL=10
+ ESR=11
+ RP=12m
+ TC=100
+ TC1_ESR=10
+ TC2_ESR=10
xinstcapacitor   1 2 model401     params:  CAP={CAP}
+  c1={C1}
+  c2={C2}
+  c3={C3}
+  esl={ESL}
+  resl={RESL}
+  esr={ESR}
+  rp={RP}
+  tc={TC}
+  tc1_esr={TC1_ESR}
+  tc2_esr={TC2_ESR}
.ends  awbcapacitor
*$
*b Device model created by analog_uprev for inductor on Wed Jan 11 16:44:45 IST 2006
.subckt awbinductor   1 2
+ params:
+ IND=10n
+ L1=1
+ L2=2
+ L3=10
+ RIND=1meg
+ CS=0.47u
+ ESR=100
+ TC1_ESR=10
+ TC2_ESR=10
xinstinductor   1 2 model402     params:  ind={IND}
+  l1={L1}
+  l2={L2}
+  l3={L3}
+  rind={RIND}
+  cs={CS}
+  esr={ESR}
+  tc1_esr={TC1_ESR}
+  tc2_esr={TC2_ESR}
.ends  awbinductor
*$


