* PSpice Model Editor - Version 9.2.1

*$
*a Device model created by analog_uprev for bfg194 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbfg194   200 100 300
LBI 1 10 0.94nH
LCI 2 20 0.92nH
LEI 3 30 0.88nH
CCB 10 20 10fF
CCE 20 30 338fF
CBE 30 10 200fF
CB 1 3 67fF
CC 2 3 176fF
LBO 10 100 0.95nH
LCO 20 200 0.33nH
LEO 30 300 0.05nH
Q1 2 1 3 M1BFG194
.MODEL M1BFG194 PNP
+   ISE=2.1629e-14 IKR=0.012843 BF=111.78 FC=0.90755 VAR=1.7871
+   CJC=3.5856e-12 NC=1.6 CJE=1.7699e-14 NE=0.841 NF=0.66503
+   BR=92.296 RB=4.1356 RC=0.10833 RE=0.15908 MJC=0.40003
+   TF=5.311e-11 MJE=0.48212 IRB=6.1674e-05 NR=0.43618 CJS=0
+   RBM=0.75304 ITF=0.010453 VJC=0.71631 VJE=0.84843 TR=9.7481e-10
+   XCJC=0.063742 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.10323 XTF=0.65766 VJS=0.75 XTI=3 IKF=0.84785
+   IS=4.574e-15 VAF=9.1007 ISC=7.8447e-18 
.ends
*
*
*$
*a Device model created by analog_uprev for bfp194 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbfp194   200 100 300
LBI 1 10 0.84nH
LCI 2 20 0.07nH
LEI 3 30 0.31nH
CCB 10 20 19fF
CCE 20 30 281fF
CBE 30 10 145fF
LBO 10 100 0.65nH
LCO 20 200 0.42nH
LEO 30 300 0.14nH
Q1 2 1 3 M1BFP194
.MODEL M1BFP194 PNP
+   ISE=2.1629e-14 IKR=0.012843 BF=111.78 FC=0.90755 VAR=1.7871
+   CJC=3.5856e-12 NC=1.6 CJE=1.7699e-14 NE=0.841 NF=0.66503
+   BR=92.296 RB=4.1356 RC=0.10833 RE=0.15908 MJC=0.40003
+   TF=5.311e-11 MJE=0.48212 IRB=6.1674e-05 NR=0.43618 CJS=0
+   RBM=0.75304 ITF=0.010453 VJC=0.71631 VJE=0.84843 TR=9.7481e-10
+   XCJC=0.063742 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.10323 XTF=0.65766 VJS=0.75 XTI=3 IKF=0.84785
+   IS=4.574e-15 VAF=9.1007 ISC=7.8447e-18 
.ends
*
*
*$
*a Device model created by analog_uprev for bfr194 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbfr194   200 100 300
LBI 1 10 0.85nH
*LCI 2 20 0nH
LEI 3 30 0.69nH
CCB 10 20 84fF
CCE 20 30 165fF
CBE 30 10 73fF
LBO 10 100 0.51nH
LCO 20 200 0.49nH
LEO 30 300 0.61nH
Q1 20 1 3 M1BFR194
.MODEL M1BFR194 PNP
+   ISE=2.1629e-14 IKR=0.012843 BF=111.78 FC=0.90755 VAR=1.7871
+   CJC=3.5856e-12 NC=1.6 CJE=1.7699e-14 NE=0.841 NF=0.66503
+   BR=92.296 RB=4.1356 RC=0.10833 RE=0.15908 MJC=0.40003
+   TF=5.311e-11 MJE=0.48212 IRB=6.1674e-05 NR=0.43618 CJS=0
+   RBM=0.75304 ITF=0.010453 VJC=0.71631 VJE=0.84843 TR=9.7481e-10
+   XCJC=0.063742 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.10323 XTF=0.65766 VJS=0.75 XTI=3 IKF=0.84785
+   IS=4.574e-15 VAF=9.1007 ISC=7.8447e-18 
.ends
*
*
*$
*a Device model created by analog_uprev for bft92 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbft92   200 100 300
LBI 1 10 0.85nH
*LCI 2 20 0nH
LEI 3 30 0.69nH
CCB 10 20 84fF
CCE 20 30 165fF
CBE 30 10 73fF
LBO 10 100 0.51nH
LCO 20 200 0.49nH
LEO 30 300 0.61nH
Q1 20 1 3 M1BFT92
.MODEL M1BFT92 PNP
+   ISE=1.2196e-14 IKR=0.019729 BF=98.533 FC=0.75167 VAR=47.577
+   CJC=9.2207e-13 NC=1.206 CJE=1.7785e-15 NE=1.1172 NF=0.90551
+   BR=10.297 RB=7.9562 RC=0.66749 RE=1.5119 MJC=0.3
+   TF=3.2171e-11 MJE=0.32167 IRB=0.00079584 NR=1.2703 CJS=0
+   RBM=1.5939 ITF=1.3277e-05 VJC=1.2 VJE=0.79082 TR=2.0779e-09
+   XCJC=0.3 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.21451 XTF=0.30227 VJS=0.75 XTI=3 IKF=0.016123
+   IS=4.5354e-15 VAF=10.983 ISC=2.4709e-17 
.ends
*
*
*$
*a Device model created by analog_uprev for bft92w on Thu Feb  8 17:47:28 IST 2001
.subckt awbbft92w   200 100 300
LBI 1 10 0.57nH
*LCI 2 20 0nH
LEI 3 30 0.43nH
CCB 10 20 101fF
CCE 20 30 175fF
CBE 30 10 61fF
LBO 10 100 0.4nH
LCO 20 200 0.41nH
LEO 30 300 0.5nH
Q1 20 1 3 M1BFT92W
.MODEL M1BFT92W PNP
+   ISE=1.2196e-14 IKR=0.019729 BF=98.533 FC=0.75167 VAR=47.577
+   CJC=9.2207e-13 NC=1.206 CJE=1.7785e-15 NE=1.1172 NF=0.90551
+   BR=10.297 RB=7.9562 RC=0.66749 RE=1.5119 MJC=0.3
+   TF=3.2171e-11 MJE=0.32167 IRB=0.00079584 NR=1.2703 CJS=0
+   RBM=1.5939 ITF=1.3277e-05 VJC=1.2 VJE=0.79082 TR=2.0779e-09
+   XCJC=0.3 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.21451 XTF=0.30227 VJS=0.75 XTI=3 IKF=0.016123
+   IS=4.5354e-15 VAF=10.983 ISC=2.4709e-17 
.ends
*
*
*$
*a Device model created by analog_uprev for bft93 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbft93   200 100 300
LBI 1 10 0.85nH
*LCI 2 20 0nH
LEI 3 30 0.69nH
CCB 10 20 84fF
CCE 20 30 165fF
CBE 30 10 73fF
LBO 10 100 0.51nH
LCO 20 200 0.49nH
LEO 30 300 0.61nH
Q1 20 1 3 M1BFT93
.MODEL M1BFT93 PNP
+   ISE=1.6295e-14 IKR=0.012081 BF=80 FC=0.54298 VAR=9.5149
+   CJC=2.6904e-12 NC=1.038 CJE=2.0636e-14 NE=1.3702 NF=1.0313
+   BR=16.116 RB=3.2133 RC=1.1393 RE=1.9597 MJC=0.5401
+   TF=5.4303e-11 MJE=0.68352 IRB=0.00046855 NR=1.2907 CJS=0
+   RBM=2.0822 ITF=0.0030573 VJC=1.0282 VJE=0.84456 TR=3.4233e-10
+   XCJC=0.075977 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.19311 XTF=0.27447 VJS=0.75 XTI=3 IKF=0.47497
+   IS=1.0366e-15 VAF=8.4866 ISC=9.4971e-17 
.ends
*
*
*$
